US07105544B2
N-{3-[1-(3-{[BIS(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-METHOXYPHENYL}-2-METHYLPROPANAMIDE
Example 23 was prepared from bis(4-fluorophenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methoxyphenyl}-2-methylpropanamide according to the procedures described in Scheme 9: ESMS m/e: 564.4 (M+H)+.

reactant | bis(4-fluorophenyl)acetic acid | FC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)F | C14H10F2O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methoxyphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1OC)NC(C(C)C)=O | C19H31N3O2
product | N-{3-[1-(3-{[BIS(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-4-METHOXYPHENYL}-2-METHYLPROPANAMIDE | FC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1OC)NC(C(C)C)=O)C1=CC=C(C=C1)F | C33H39F2N3O3
